US08012974B2
To a solution of 5-bromo-3-(3-trimethylsilanyl-prop-1-ynyl)-pyrazin-2-ylamine (1.66 g, 66% purity, 5.84 mmol) in 25 mL of THF was added a solution of tBuOK in THF (1M, 11.7 mL, 11.7 mmol) slowly at RT. The reaction mixture was heated to reflux for 2 days, then cooled to RT, diluted with EtOAc, quenched with H2O, filtered through a pad of celite, and washed with H2O and EtOAc. The organic layer was separated, washed with H2O and brine, dried (MgSO4), and concentrated to give 598 mg of 2-bromo-6-methyl-5H-pyrrolo[2,3-b]pyrazine as a brown solid (48% yield).

reactant | 5-bromo-3-(3-trimethylsilanyl-prop-1-ynyl)-pyrazin-2-ylamine | 5.84 mmol, 1.66 g | BrC=1N=C(C(=NC1)N)C#CC[Si](C)(C)C | C10H14BrN3Si
reactant | tBuOK | C(C)(C)(C)O[K]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 11.7 mmol, 1M, 11.7 mL | C1CCOC1 | C4H8O
product | 2-bromo-6-methyl-5H-pyrrolo[2,3-b]pyrazine | 598 mg, 48% yield | BrC=1N=C2C(=NC1)NC(=C2)C | C7H6BrN3
